Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p mechanical fall with right ___ digit laceration and right 
chest wall laceration
 
Major Surgical or Invasive Procedure:
1. Over reduction and internal fixation of right middle finger 
P2 fracture.
2. Repair of right ring finger zone 1 extensor tendon injury.
3. Open reduction and internal fixation of right fourth 
metacarpal fracture.
4. Open reduction and internal fixation of right fifth 
metacarpal fracture.
5. Repair of right middle finger zone 5 extensor tendon injury.
6. Closed treatment of left middle finger tuft fracture.
7. Irrigation and debridement of skin, subcutaneous tissue and 
devitalized muscle of the right axillary and breast wound.
8. Complex closure of right axillary and breast wound.

 
History of Present Illness:
___ year old right hand dominant female s/p bicycle accident on 
___. The patient reports that she was traveling at ~20mph 
when she hit a "pothole". She then struck/rolled over a 
guardrail. The patient reports that she can't remember exactly 
how she struck the guard rale because it "happened so fast". 
Patient was helmeted, did not strike her head, no LOC. Patient 
initially reported right shoulder/chest pain, right hand pain 
that has improved with morphine. Able to move right hand, wrist, 
shoulder.  

 
Past Medical History:
None
.
PSH: C-section x3

 
Social History:
___
Family History:
Mother with non-insulin dependent diabetes
 
Physical Exam:
VS: 98.0 65 113/72 19 100 on RA
Gen: NAD, resting on stretcher
HEENT: C-collar in place. EOMI. No evidence of trauma/injury
CV: Regular rate, rhythm
Chest: Large laceration to anterior R chest. lateral pectoralis 
muscle transected
Resp: CTAB
Ext: RUE: Full range of motion at wrist. No tenderness over 
distal radius or distal ulner. No tenderness over carpal bones. 
Full range of motion of right thumb. Pain to palpation over ___, 
___ metacarpal bones. Laceration over ___ MCP joint. Avulsion of 
distal ___ digit soft tissue at level of DIP joint. Distal 
phalynx exposed. Ventral/lateral skin intact. Sensation to light
touch intact throughout including avusled soft tissue of ___ 
digit. 2+ radial pulse. Cap refill <2 sec throughout. Patient 
able to make a fist, oppose ___ digit, abduct fingers. LUE, 
LLE, RLE warm, well perfused.

 
Pertinent Results:
___ 09:15PM   PLT COUNT-336
___ 09:15PM   NEUTS-93.1* LYMPHS-3.8* MONOS-2.6 EOS-0.1 
BASOS-0.3
___ 09:15PM   WBC-16.0* RBC-3.57* HGB-12.1 HCT-36.8 
MCV-103* MCH-33.8* MCHC-32.8 RDW-12.2
___ 09:15PM   estGFR-Using this
___ 09:15PM   GLUCOSE-151* UREA N-16 CREAT-0.7 SODIUM-135 
POTASSIUM-3.8 CHLORIDE-100 TOTAL CO2-20* ANION GAP-19
___ 05:40AM   PLT COUNT-360
___ 05:40AM   CALCIUM-8.5 PHOSPHATE-3.5 MAGNESIUM-2.0
___ 05:40AM   GLUCOSE-115* UREA N-13 CREAT-0.5 SODIUM-133 
POTASSIUM-4.2 CHLORIDE-99 TOTAL CO2-24 ANION GAP-14
.
RADIOLOGY:
Radiology Report CT C-SPINE W/O CONTRAST Study Date of ___ 
9:02 ___ 
IMPRESSION: 
1. No acute cervical fracture or malalignment. 
2. Moderate multilevel degenerative changes. 
3. Tiny right apical pneumothorax with small-to-moderate 
subcutaneous 
emphysema along the anterior right chest wall. 
.
Radiology Report HAND (AP, LAT & OBLIQUE) RIGHT Study Date of 
___ 9:51 ___ 
THREE VIEWS OF THE RIGHT HAND: There is extensive soft tissue 
injury around the right ring finger with subcutaneous emphysema 
seen in the soft tissues.  There is a comminuted fracture of the 
middle phalanx of the ring finger with intra-articular extension 
and volar displacement of the distal fragments.  Additionally, 
there are minimally displaced, angulated fractures of the fourth 
and fifth metacarpals with adjacent soft tissue swelling. 
.
Radiology Report CHEST (SINGLE VIEW) Study Date of ___ 
11:20 ___ 
IMPRESSION: Tiny right pneumothorax. Right lower lobe pulmonary 
contusion.  Right lateral chest wall subcutaneous air.
.
Radiology Report CHEST (PORTABLE AP) Study Date of ___ 7:32 
___  
Right apical pneumothorax is noted, small, grossly unchanged 
since the prior study. The central mediastinal component of the 
pneumothorax is not clearly seen. The chest tube is in place. 
Right lower lung consolidation most likely reflects contusion 
but followup to exclude the possibility of aspiration or 
aspiration pneumonia is required.  Mediastinal silhouette is 
stable. Left lung is clear. 
.
Radiology Report CHEST (PA & LAT) Study Date of ___ 7:38 AM 

Right small apical pneumothorax appears to be unchanged as well 
as the 
position of the right chest tube. Right lower lobe consolidation 
is slightly more dense and might be concerning for increase in 
size. Infectious process should be considered given the time 
course as opposite to pulmonary contusion. 
.
Radiology Report CHEST (PA & LAT) Study Date of ___ 9:10 AM 

IMPRESSION: 
1. 3-cm right middle lobe hematoma or, less likely, lung mass, 
better defined since ___ with resolution of surrounding 
contusion. 
2. Small right apical pneumothorax, unchanged. 
3. Small right pleural effusion, possibly hemorrhagic, slightly 
larger. 

 
Brief Hospital Course:
The patient was admitted to the Acute Care Service s/p traumatic 
fall from bicycle on ___.  She had initial work up 
including multiple scans (see 'Pertinent Results) and was 
eventually brought to the OR for complex closure of right 
axillary and breast wound and multiple repairs of right hand 
digits by Plastic and Reconstructive Surgery (see Operative Note 
for details).  The patient tolerated the procedures well.  She 
was then admitted to the Plastics service.
.
Neuro: Post-operatively, the patient received Morphine IV with 
good effect and adequate pain control. When tolerating oral 
intake, the patient was transitioned to oral pain medications. 
.
CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored.
.
Pulmonary: The patient was noted to have a tiny right apical 
pneumothorax on admission to hospital.  The pneumothorax 
remained unchanged over the ___ hospital stay and she 
remained completely asymptomatic; In addition, a 3-cm right 
middle lobe hematoma or, less likely, lung mass, was also noted 
on imaging.  The patient was advised that this may require a 
follow up chest xray or chest CT, in the future.  Dr. ___ 
recommend that patient follow up with her PCP regarding this 
finding.  Vital signs were routinely monitored.
.
GI/GU: Post-operatively, the patient was given IV fluids until 
tolerating oral intake. Her diet was advanced when appropriate, 
which was tolerated well. She was also started on a bowel 
regimen to encourage bowel movement. Intake and output were 
closely monitored. 
.
ID: Post-operatively, the patient was started on IV cefazolin, 
then switched to PO cefadroxil for discharge home. The patient's 
temperature was closely watched for signs of infection. 
.
Prophylaxis: The patient was encouraged to get up and ambulate 
as early as possible. 
.
At the time of discharge on POD#2, the patient was doing well, 
afebrile with stable vital signs, tolerating a regular diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  Her right hand/forearm were splinted and her right 
chest wall area had sutures intact with one JP drain with serous 
fluid draining.
 
Medications on Admission:
None
 
Discharge Medications:
1. cefadroxil 500 mg Capsule Sig: One (1) Capsule PO twice a day 
for 7 days.
Disp:*14 Capsule(s)* Refills:*0*
2. oxycodone 5 mg Tablet Sig: ___ Tablets PO every ___ hours.
Disp:*50 Tablet(s)* Refills:*0*
3. Tylenol ___ mg Tablet Sig: ___ Tablets PO every ___ hours: 
Max 12/day. Do not exceed 4gms/4000mgs of tylenol per day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Right axillary and breast avulsion and degloving.
2. Opened ring finger middle phalanx fracture.
3. Right middle finger extensor tendon laceration.
4. Right fourth metacarpal closed fracture.
5. Right fifth metacarpal spiral oblique closed fracture.
6. Left ring finger closed tuft fracture.
7. Right fourth metacarpophalangeal sagittal band rupture.
8. tiny left apical pneumothorax

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Followup Instructions:
___